US05932606
Step J: 1-t-Butylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole
The title compound was prepared from 1-carboxymethyl-4-methyl-5-azidomethylimidazole and tert-butylamine using the procedure described in EXAMPLE I, Step A. 1H NMR (CDCl3) d 1.32 (s, 9 H), 2.29 (s, 3 H), 4.31 (s, 2 H), 4.48 (s, 2 H), 5.25 (br s, 1 H), 7.47 (s, 1 H).

reactant | 1-carboxymethyl-4-methyl-5-azidomethylimidazole | C(=O)(O)CN1C=NC(=C1CN=[N+]=[N-])C | C7H9N5O2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 1-t-Butylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole | C(C)(C)(C)NC(=O)CN1C=NC(=C1CN=[N+]=[N-])C | C11H18N6O
